US05703110
Methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-morpholinobenzimidazole-7-carboxylate
A mixture of methyl 2-chloro-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate (0.8 g) in morpholine (15 ml) was stirred at 100° C. for 2 hours and the reaction mixture was concentrated to dryness. The residue was extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The resulting crystals were recrystallized from ethyl acetate-hexane to afford colorless prisms (0.69 g, 77%).

reactant | methyl 2-chloro-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate | 0.8 g | ClC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OC | C23H16ClN3O2
reactant | morpholine | 15 ml | N1CCOCC1 | C4H9NO
product | Methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-morpholinobenzimidazole-7-carboxylate | 0.69 g, 77% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)N2CCOCC2 | C27H24N4O3
